US05786386
In a 100-ml round-bottomed flask were placed n-laurylamine (11.1 g (60 mmol)) and isovaniline (1.52 g (10 mmol)) under nitrogen. While stirring, diisopropylether (17.5 ml) and glacial acetic acid (5 ml) were sequentially added dropwise. After completion of addition, the mixture was stirred for approximately 2 hours at room temperature, followed by the addition of a borane-pyridine complex (1.2 ml (10 mmol), product of Aldrich) over 10 minutes. The mixture was stirred for a further 2 hours. Subsequently, 5N-HCl (12 ml) was added dropwise and the resultant mixture was stirred for 10 minutes. The pH of the mixture was turned to basic using an aqueous 5N--NaOH solution. The product formed was extracted using diisopropyl ether, concentrated, and purified via silica gel column chromatography n-hexane:ethyl acetate=2:1), thereby obtaining 2.6 g of N-lauryl-3-hydroxy-4-methoxybenzylamine as mud yellow crystals (yield: 82%).

reactant | n-laurylamine | 60 mmol, 11.1 g | CCCCCCCCCCCCN | C12H27N
reactant | isovaniline | 10 mmol, 1.52 g | COC1=C(C=C(C=C1)C=O)O | C8H8O3
reactant | diisopropylether | 17.5 ml | C(C)(C)OC(C)C | C6H14O
reactant | HCl | 12 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-lauryl-3-hydroxy-4-methoxybenzylamine | 2.6 g | C(CCCCCCCCCCC)NCC1=CC(=C(C=C1)OC)O | C20H35NO2
